US08012998B2
To a stirred solution of 3-chloro-6-methyl-pyridazine-4-carboxylic acid (500 mg, 2.89 mmol) in MeOH (50 mL) was added NaOH (395 mg, 9.85 mmol) in pellets, followed by 150 mg of Pd/C (10%). The reaction mixture was put under a H2 atmosphere for 3 hours (atmospheric pressure). The reaction mixture was filtered on celite, acidified with aq. HCl (ph=6), and concentrated under vacuo. Column chromatography (SiO2, CH2Cl2/MeOH 7/3) yielded 120 mg (29%) of 6-methyl-pyridazine-4-carboxylic acid as a brown solid.

reactant | 3-chloro-6-methyl-pyridazine-4-carboxylic acid | 2.89 mmol, 500 mg | ClC=1N=NC(=CC1C(=O)O)C | C6H5ClN2O2
reactant | NaOH | 9.85 mmol, 395 mg | [OH-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 150 mg | [Pd] | Pd
product | 6-methyl-pyridazine-4-carboxylic acid | 120 mg, 29% | CC1=CC(=CN=N1)C(=O)O | C6H6N2O2
